Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male transferred to ___ ED from OSH after
presenting with word finding difficulties. The patient reports
that while out to lunch with family, he began to have expressive
aphasia and word finding difficulties. The episode was described
as slurred speech for approximately 2 hours (from noon-2pm)
accompanied by an increase in baseline essential tremor. He was
taken by ambulance to an OSH, where he underwent workup to rule
out a stroke. His NCHCT revealed acute on chronic bilateral SDH. 


 
Past Medical History:
Type II diabetes 
Hypertension
Ashtma
GERD
prior CVA
Essential Tremor

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Exam on Admission:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2 to 1
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. Strength full power ___
throughout. No pronator drift. Increased tremor noted, patient
has essential tremor at baseline. 

Sensation: Intact to light touch

Exam on Discharge:
Alert and oriented to person, place and time. PERRL, slight L 
facial. Tongue midline. No pronator drift, moves all extremities 
x 4 with ___ strength.
 
Pertinent Results:
___ NCHCT
Compared to prior, there has been interval evolution of 
bilateral mixed 
density subdural hematomas.  The overall size and extent of 
these collections has not significantly changed given 
differences in imaging technique.  For example, the hyperdense 
component along the inferior right frontal lobe convexity 
measures approximately 15 mm in greatest width (Series 3, image 
23), unchanged from prior.  There remains local mass effect on 
adjacent sulci with minimal midline shift to the right.  The 
basal cisterns are patent.  No new hemorrhage is identified.  
There is no evidence of infarction.  Chronic left temporal 
lacune is again seen. 
  
There is no evidence of fracture.  There is mucosal thickening 
of the right greater than left maxillary sinus, including high 
density material in the right.  Remainder of the paranasal 
sinuses are clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION:  
  
Interval evolution of bilateral mixed density subdural hematomas 
overall 
similar in size and extent compared to ___.  No new 
hemorrhage. 

 
Brief Hospital Course:
The patient was admitted to the neuro ICU on ___ after 
presented with bilateral subdural hematomas. A repeat scan was 
done on ___ which demonstrated a stable bleed. After 
conversation with Dr. ___ decision was made to 
observe and treat the patient conservatively and discharge him 
home on Keppra with plans to follow up in two weeks. Physical 
therapy evaluated the patient and deemed him safe for home with 
home ___.
 
Medications on Admission:
metformin 500 mg BID
Inderal LA 160 mg daily  
Singulair 10 mg daily  
Flovent HFA 220 mcg/act 2 puffs in the AM   
omeprazole 40 mg Daily   
Latuda 20 mg at bedtime  
Aspirin 325 mg Daily

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  Fluticasone Propionate 110mcg 2 PUFF IH QAM  
7.  Latuda (lurasidone) 20 mg oral QHS  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Montelukast 10 mg PO DAILY  
10.  Omeprazole 40 mg PO DAILY  
11.  Propranolol LA 160 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
_x0095_We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
_x0095_You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
_x0095_No driving while taking any narcotic or sedating medication. 
_x0095_If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
_x0095_No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
_x0095_***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
_x0095_You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
_x0095_You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
_x0095_You may have difficulty paying attention, concentrating, and 
remembering new information.
_x0095_Emotional and/or behavioral difficulties are common. 
_x0095_Feeling more tired, restlessness, irritability, and mood 
swings are also common.
_x0095_Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
_x0095_Headache is one of the most common symptom after a brain 
bleed. 
_x0095_Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
_x0095_Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
_x0095_There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the incision 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
_x0095_Sudden numbness or weakness in the face, arm, or leg
_x0095_Sudden confusion or trouble speaking or understanding
_x0095_Sudden trouble walking, dizziness, or loss of balance or 
coordination
_x0095_Sudden severe headaches with no known reason

 
Followup Instructions:
___